### PR TITLE
[Merged by Bors] - chore(Algebra/Group/Subgroup/Pointwise.lean): remove one hypothesis from `Subgroup.closure_pow_le`

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
Remove the hypothesis on `n` from `Subgroup.closure_pow_le`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/Pointwise.lean [hunk 1]
```diff
@@ -223,19 +223,23 @@ theorem closure_mul_le (S T : Set G) : closure (S * T) ≤ closure S ⊔ closure
...
 @[to_additive]
-lemma closure_pow_le : ∀ {n}, n ≠ 0 → closure (s ^ n) ≤ closure s
-  | 1, _ => by simp
-  | n + 2, _ =>
+lemma closure_pow_le : ∀ {n}, closure (s ^ n) ≤ closure s
+  | 0 => by
+    intro x hx
+    simp only [pow_zero] at hx
+    suffices x = 1 by simp [this]
+    simpa [Subgroup.closure_eq_bot_iff.mpr ?_] using hx
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Subgroup/Pointwise.lean]:
```suggestion
  | 0 => by simp_all
```

File: Mathlib/Algebra/Group/Subgroup/Pointwise.lean [hunk 2]
```diff
@@ -223,19 +223,23 @@ theorem closure_mul_le (S T : Set G) : closure (S * T) ≤ closure S ⊔ closure
...
+  | n + 1 =>
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/Subgroup/Pointwise.lean]:
```suggestion
  | n + 1 => by grw [pow_succ, closure_mul_le, closure_pow_le, sup_idem]
```
instead of the `calc ...`

**Review by j-loreaux — COMMENTED** [review]
bors merge
